* Test C: Current limit — ss 150C
.title PVT_C_ss_150

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "sky130_top.lib.spice" ss
.temp 150

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Supplies — DC
Vbvdd bvdd 0 7
Ven en 0 2.2
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven_ret en_ret 0 0

* Near-short load
Rload pvdd 0 0.1

* DUT
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4

.control
* Use tran instead of .op for better convergence
tran 2u 20m uic
let pvdd_final = v(pvdd)[length(v(pvdd))-1]
let iout = pvdd_final / 0.1
echo "RESULT_C ss 150 pvdd_final"
print pvdd_final
echo "RESULT_C ss 150 iout"
print iout
quit
.endc
.end
